US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-t-butoxycarbonylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 215)
0.31 g of N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride and 0.49 g of 1-(4-t-butoxycarbonylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea were dissolved in 30 ml of benzene, and the solution was heated under reflux for 5 hours. After the reaction, benzene was evaporated under reduced pressure. The resulting oily product was purified by column chromatography [silica gel; developing solvent hexane/ethyl acetate (9:1)) to obtain 0.34 g of the captioned compound.

reactant | N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride | 0.31 g | ClCN(C(=O)Cl)C1=CC=C(C=C1)C | C9H9Cl2NO
reactant | 1-(4-t-butoxycarbonylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 0.49 g | C(C)(C)(C)OC(=O)C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1 | C15H19F3N2O2S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,2,2-trifluoroethylimino)-3-(4-t-butoxycarbonylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one | 0.34 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)C)(F)F | C24H26F3N3O3S
